US04789674
Analogously to the procedure described in Example 2, from 4.8 g (0.015 mol) of 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester and 25 ml of morpholine there is obtained 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimorpholide in the form of pale yellow crystals having a melting point of 250° (decomposition).

reactant | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester | 0.015 mol, 4.8 g | COC(CN1C(C(=C(C1)O)C1=CC(N(C1)CC(=O)OC)=O)=O)=O | C14H16N2O7
reactant | morpholine | 25 ml | N1CCOCC1 | C4H9NO
product | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimorpholide | OC1=C(C(N(C1)CC(=O)N1CCOCC1)=O)C1=CC(N(C1)CC(=O)N1CCOCC1)=O | C20H26N4O7
